US07595401B2
To the mixture of N,N-dimethylamino pyridine (1.18 g, 9.66 mmol), EDCI (1.48 g, 7.73 mmol), in DMF (5 mL) was added carboxylic acid (0.398 g, 3.86 mmol), then followed by the addition of 4-piperadinethanol (0.5 g, 3.86 mmol). The reaction mixture was allowed to stir at room temperature for 12 h. The reaction mixture was diluted with EtOAc (75 mL) and washed with brine (60 mL). The EtOAc layer was dried over Na2SO4, filtered, and solvent was evaporated under reduced pressure to afford crude amide. The crude was used for the next tosylation reaction without further purification. To the above crude product (0.827 g, 3.86 mmol), triethyl amine (3.22 mL, 23.18 mmol), in THF (20 mL) was added tosyl chloride (2.21 g, 11.59 mmol) at room temperature and stirred for 12 h. The reaction mixture was concentrated in vacuo and the crude was dissolved in EtOAc (100 mL), washed with sat. aq. NaHCO3 solution (90 mL), followed by brine (90 mL). The EtOAc layer was dried over Na2SO4, filtered, and solvent was evaporated under reduced pressure to afford crude product, which was purified by Isco silica gel flash column using Hexane-EtOAc (1:9) to obtain 0.45 g of toluene-4-sulfonic acid 2-[1-(2-dimethylamino-acetyl)-piperidin-4-yl]-ethyl ester. LC-MS [M+H]+ 369.2

reactant | EDCI | 7.73 mmol, 1.48 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-piperadinethanol | 3.86 mmol, 0.5 g | N1CCC(CC1)CCO | C7H15NO
reactant | triethyl amine | 23.18 mmol, 3.22 mL | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 11.59 mmol, 2.21 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | toluene-4-sulfonic acid 2-[1-(2-dimethylamino-acetyl)-piperidin-4-yl]-ethyl ester | 0.45 g | CN(CC(=O)N1CCC(CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C18H28N2O4S
